US06992103B2
3,5-Dibromo-2-fluorobenzoic acid (D37)
Butyllithium (1.6M solution in hexanes, 12.3 ml, 19.7 mmol) was added dropwise to a solution of 2,2,6,6-tetramethylpiperidine (3.32 ml, 19.7 mmol) in THF at −78° C. The reaction was stirred for 10 min. prior to the addition of 2,4-dibromofluorobenzene (5 g, 19.7 mmol). Stirring was continued for 2 h. The solution was then poured onto freshly crushed dry ice and allowed to warm to room temperature. The resulting solution was diluted with water (100 ml) and NaOH (2M, 10 ml) was added. This was extracted with ether (2×) and the aqueous layer was acidified to pH 1 (2M HCl) to afford a gummy solid which was triturated from ether to afford the title compound (D37) as a colourless solid (1.23 g).

reactant | Butyllithium | 19.7 mmol, 1.6M, 12.3 ml | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 19.7 mmol, 3.32 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 2,4-dibromofluorobenzene | 19.7 mmol, 5 g | BrC1=C(C=CC(=C1)Br)F | C6H3Br2F
reactant | dry ice | C(=O)=O | CO2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | NaOH | 2M, 10 ml | [OH-].[Na+]
product | 3,5-Dibromo-2-fluorobenzoic acid | 1.23 g | BrC=1C(=C(C(=O)O)C=C(C1)Br)F | C7H3Br2FO2
